US04661260
4.8 g of Polymyxin B sulfate (purchased from Sigma Chemicl Co.; 8000 units/mg) were dissolved in 600 ml water and 25 g of Fiber A were added therein, followed by 5 hours shaking. Then 1.5 g of magnesium oxide were added thereto, followed by 12 hours shaking at room temperature. Thereafter, the fiber was taken out from the mother liquor, packed in a column and washed with 4800 ml of 0.1 N-hydrochloric acid. Polymyxin B-fixed fiber (Fiber D) was obtained. The amount of fixed Polymyxin on Fiber D was determined by the same method of Example 1. It was 39 mg/g.

reactant | Polymyxin B sulfate | 4.8 g | CCC(C)CCCCC(=O)N[C@@H](CCN)C(=O)N[C@@H]([C@@H](C)O)C(=O)N[C@@H](CCN)C(=O)N[C@H]1CCNC(=O)[C@@H](NC(=O)[C@@H](NC(=O)[C@@H](NC(=O)[C@@H](NC(=O)[C@H](NC(=O)[C@H](NC1=O)CCN)CC=2C=CC=CC2)CC(C)C)CCN)CCN)[C@@H](C)O.OS(=O)(=O)O
reactant | magnesium oxide | 1.5 g | [O-2].[Mg+2]
solvent | water | 600 ml | O | H2O
product | Polymyxin B | CCC(C)CCCCC(=O)N[C@@H](CCN)C(=O)N[C@@H]([C@@H](C)O)C(=O)N[C@@H](CCN)C(=O)N[C@H]1CCNC(=O)[C@@H](NC(=O)[C@@H](NC(=O)[C@@H](NC(=O)[C@@H](NC(=O)[C@H](NC(=O)[C@H](NC1=O)CCN)CC=2C=CC=CC2)CC(C)C)CCN)CCN)[C@@H](C)O | C56H98N16O13
